US06335337B1
4-Fluorobenzonitrile is reacted with an excess of ethylenediamine in an aprotic solvent to give 4-(2-aminoethyl)benzonitrile which is then mono-alkylated with ethyl bromoacetate in a polar solvent such as ethanol or acetonitrile in the presence of an inorganic base or a tertiary amine. Acylation with chloroacetyl chloride followed by cyclization and hydrolysis give the acid (1).

reactant | 4-Fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | ethylenediamine | C(CN)N | C2H8N2
product | 4-(2-aminoethyl)benzonitrile | NCCC1=CC=C(C#N)C=C1 | C9H10N2
